US08466169B2
15a) 5-Amino-N-methoxy-2,N-dimethyl-4-(pentafluorosulfanyl)benzamide
5-Amino-2-methyl-4-(pentafluorosulfanyl)benzoic acid (500 mg, WO 2005/47239) was dissolved in methylene chloride (30 ml) and admixed while stirring with N,O-dimethylhydroxylamine hydrochloride (176 mg), 1-propanephosphonic anhydride (1.1 ml) and triethylamine (0.25 ml). After stirring for 4 h and leaving to stand overnight, the reaction mixture was concentrated, the residue was taken up with ethyl acetate and the solution was washed twice with potassium hydrogen sulfate solution and twice with sodium hydrogencarbonate solution. After drying over magnesium sulfate, the organic phase was filtered and concentrated. The resulting crude product (500 mg) was converted further directly.

reactant | 5-Amino-2-methyl-4-(pentafluorosulfanyl)benzoic acid | 500 mg | NC=1C(=CC(=C(C(=O)O)C1)C)S(F)(F)(F)(F)F | C8H8F5NO2S
reactant | N,O-dimethylhydroxylamine hydrochloride | 176 mg | Cl.CNOC
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-Amino-N-methoxy-2,N-dimethyl-4-(pentafluorosulfanyl)benzamide | NC=1C(=CC(=C(C(=O)N(C)OC)C1)C)S(F)(F)(F)(F)F | C10H13F5N2O2S
